US07585874B2
6-Imidazol-1-yl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 60, 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (47 mg, 0.13 mmol) was converted, using imidazole instead of benzamide, to the title compound (13 mg, 29%) which was obtained as a brown foam. MS: m/e=342.3 [M+H]+ as the most polar component.

reactant | 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.13 mmol, 47 mg | IC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12IN3O
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 6-Imidazol-1-yl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 13 mg, 29% | N1(C=NC=C1)C=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C20H15N5O
